US07534801B2
Preparation of N(4-Piperidin-4-yl-2H-chromen-6-yl)benzenesulfonamide Hemihydrate
A mixture of benzyl 4-{6-[(phenylsulfonyl)amino]-2,3-dihydro-4H-chromen-4-ylidene}piperidine-1-carboxylate (500 mg, 1 mmol), ethanol (2 mL) and 6N hydrochloric acid (18 mL) is heated at reflux temperature for 2 hours, cooled to 0°-5° C., treated with 6N sodium hydroxide (14 mL) with cooling, then with saturated aqueous sodium carbonate to pH 9 and with chloroform. The organic phase is dried over MgSO4 and concentrated in vacuo. The resultant residue is crystallized from ethanol to afford the title compound as an off-white solid, 75 mg (20% yield), mp >230° C., identified by NMR and mass spectral analyses.

reactant | benzyl 4-{6-[(phenylsulfonyl)amino]-2,3-dihydro-4H-chromen-4-ylidene}piperidine-1-carboxylate | 1 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)NC=1C=C2C(CCOC2=CC1)=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C28H28N2O5S
reactant | hydrochloric acid | 6N, 18 mL | Cl | ClH
reactant | sodium hydroxide | 6N, 14 mL | [OH-].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N(4-Piperidin-4-yl-2H-chromen-6-yl)benzenesulfonamide Hemihydrate | 20% yield | O.N1CCC(CC1)C1=CCOC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1.N1CCC(CC1)C1=CCOC2=CC=C(C=C12)NS(=O)(=O)C1=CC=CC=C1 | InChI=1S/2C20H22N2O3S.H2O/c2*23-26(24,17-4-2-1-3-5-17)22-16-6-7-20-19(14-16)18(10-13-25-20)15-8-11-21-12-9-15;/h2*1-7,10,14-15,21-22H,8-9,11-13H2;1H2
